US06235730B1
Using 3-fluoroacetanilide (4.6 g) and bromobenzene (9.4 g), a reaction was made in the same manner as in 1) of Production Example 14. The subsequent purification by silica gel column chromatography (developing solvent, ethyl acetate:hexane=1:2) produced 3-fluoro-N-phenylacetanilide (1.46 g; yield, 21%) as a purple oil.

reactant | 3-fluoroacetanilide | 4.6 g | CC(=O)NC1=CC(=CC=C1)F | C8H8FNO
reactant | bromobenzene | 9.4 g | BrC1=CC=CC=C1 | C6H5Br
product | 3-fluoro-N-phenylacetanilide | 1.46 g, 21% | FC=1C=C(C=CC1)N(C1=CC=CC=C1)C(C)=O | C14H12FNO
